US08835428B2
(S)-2-[(3-{4-[3-(4-Fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-4-methyl-pentanoic acid
The title compound was prepared from (S)-2-[(3-{4-[3-(4-Fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-4-methyl-pentanoic acid methyl ester using the procedure as set forth in Example 8 and was obtained in 58% yield. Mass (ES+): 455 (M++1); IR (KBr): 3336 (br), 2962, 1724, 1664 (br), 1600, 1543 (br), 1510 (br); 1H NMR (DMSO-d6) δ: 0.87, 0.91 (2×d, 6H), 1.57-1.68 (m, 2H), 1.74-1.82 (m, 1H), 4.41 (m, 1H), 7.12 (t, 2H), 7.46 (m, 2H), 7.59 (d, 2H), 7.61 (s, 1H), 7.82 (d, 2H), 8.80 (s, 1H), 8.97 (s, 1H), 9.17 (d, 1H).

reactant | (S)-2-[(3-{4-[3-(4-Fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-4-methyl-pentanoic acid methyl ester | COC([C@H](CC(C)C)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)=O | C24H25FN4O5
reactant | KBr | [K+].[Br-]
product | (S)-2-[(3-{4-[3-(4-Fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-4-methyl-pentanoic acid | 58% yield | FC1=CC=C(C=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)N[C@H](C(=O)O)CC(C)C)=O | C23H23FN4O5
